US08975261B2
2-[4-(2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-1,5-naphthyridin-3-yl)-1H-pyrazol-1-yl]ethanol (LL3)
A mixture of 3-bromo-2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]-methoxy}-1,5-naphthyridine (LL2) (130 mg, 0.3 mmol), 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]ethanol (97 mg, 0.4 mmol), tripotassium phosphate (133 mg, 0.6 mmol), S-Phos (12.8 mg, 0.03 mmol), and Pd(OAc)2 (3.5 mg, 0.02 mmol) in THF (1.3 mL) and water (0.3 mL) was heated at 100° C. for 14 hours. The reaction mixture was allowed to cool to room temperature. The mixture was then diluted with EtOAc (10 mL), washed with sodium bicarbonate (2 mL) and brine (2 mL), dried over MgSO4, filtered and concentrated in vacuo. The resulting residue was purified by reverse phase chromatography (Waters Sunfire Prep C18 OBD, 5-60% acetonitrile in water with 0.1% TFA modifier) to afford the title compound as a white solid. 1H NMR (500 MHz, DMSO): δ 8.78 (d, J=4.1 Hz, 1 H), 8.55 (s, 1 H), 8.35 (s, 1 H), 8.22 (s, 1 H), 8.15-8.10 (m, 2 H), 7.61 (dd, J=8.4, 4.3 Hz, 1 H), 7.29 (s, 2 H), 4.94-4.91 (m, 1 H), 4.69-4.65 (m, 1 H), 4.47 (d, J=9.5 Hz, 1 H), 4.14-4.09 (m, 2 H), 3.79 (s, 3 H), 3.73 (d, J=6.5 Hz, 2 H), 2.31-2.27 (m, 1 H), 1.90 (s, 1 H), 1.26-1.22 (m, 1 H), 1.14 (s, 1H); HRMS m/z (M+H) 418.1871 found, 418.1874 required.

reactant | 3-bromo-2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]-methoxy}-1,5-naphthyridine | 0.3 mmol, 130 mg | BrC=1C(=NC2=CC=CN=C2C1)OC[C@@H]1[C@H](C1)C1=NC=C(C=C1)OC | C18H16BrN3O2
reactant | 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]ethanol | 0.4 mmol, 97 mg | CC1(OB(OC1(C)C)C=1C=NN(C1)CCO)C | C11H19BN2O3
reactant | tripotassium phosphate | 0.6 mmol, 133 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | S-Phos | 0.03 mmol, 12.8 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
solvent | THF | 1.3 mL | C1CCOC1 | C4H8O
solvent | water | 0.3 mL | O | H2O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.02 mmol, 3.5 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-[4-(2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-1,5-naphthyridin-3-yl)-1H-pyrazol-1-yl]ethanol | COC=1C=CC(=NC1)[C@@H]1[C@H](C1)COC1=NC2=CC=CN=C2C=C1C=1C=NN(C1)CCO | C23H23N5O3
